US09371359B2
N-Methylmorpholine (7.2 g, 72 mmol) and isobutyl chlorocarbonate (9.8 g, 72 mmol) were added to a solution of Boc-L-homophenylalanine (20 g, 72 mmol) in dimethoxyethane (100 mL) under ice-cold conditions. After one hour stirring, the reaction solution was filtered, and the filtrate was cooled in an ice bath. Thereafter, an aqueous solution (10 mL) of sodium borohydride (4.1 g, 107 mmol) was added thereto, followed by further addition of water (300 mL). The resulting precipitate was collected by filtration and washed with water and methanol to yield N-(tert-butoxycarbonyl)-L-homophenylalaninol (15 g, 79%) as a colorless crystal.

reactant | N-Methylmorpholine | 72 mmol, 7.2 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 72 mmol, 9.8 g | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | Boc-L-homophenylalanine | 72 mmol, 20 g | C(=O)(OC(C)(C)C)N[C@@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | sodium borohydride | 107 mmol, 10 mL, 4.1 g | [BH4-].[Na+]
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
solvent | water | 300 mL | O | H2O
product | N-(tert-butoxycarbonyl)-L-homophenylalaninol | 15 g, 79% | C(C)(C)(C)OC(=O)N[C@@H](CCC1=CC=CC=C1)CO | C15H23NO3
